US07419984B2
4-[2-Amino-6-(5-bromo-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-N-hydroxy-benzamide
To a stirred solution of 4-[2-amino-6-(5-bromo-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzoic acid (0.086 g, 0.20 mmol) in dimethylformamide (3.0 ml) was added benzotriazol-1-ol (0.054 g, 0.40 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.086 g, 0.44 mmol). After stirring at room temperature for 1 hour, hydroxylamine hydrochloride (0.070 g, 1.0 mmol) was added followed by triethylamine (0.1 g, 1.0 mmol). After stirring for 16 hours, the solvent was evaporated under reduced pressure and the residue was treated with 1 M aqueous sodium carbonate solution (10 ml). Filtration provided the title compound (0.065 g, 73% yield) as a light brown solid. 1H NMR (DMSO-d6) δ 1.38 (t, 3H, J=6.9 Hz, CH3), 4.12 (q, 2H, J=6.9 Hz, CH2), 6.32 (s, 2H, NH2), 6.79 (s, 1H, Ar), 7.08 (d, 1H, J=8.9 Hz, Ar), 7.52 (dd, 1H, J=8.9 Hz, J=2.6 Hz, Ar), 7.66 (b, 4H, Ar), 8.04 (d, 1H, J=2.6 Hz, Ar), 9.24 (s, 1H, NH).

reactant | 4-[2-amino-6-(5-bromo-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-benzoic acid | 0.20 mmol, 0.086 g | NC1=NC(=CC(=N1)NC1=CC=C(C(=O)O)C=C1)C1=C(C=CC(=C1)Br)OCC | C19H17BrN4O3
reactant | benzotriazol-1-ol | 0.40 mmol, 0.054 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.44 mmol, 0.086 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxylamine hydrochloride | 1.0 mmol, 0.070 g | Cl.NO
reactant | triethylamine | 1.0 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 4-[2-Amino-6-(5-bromo-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-N-hydroxy-benzamide | 0.065 g, 73% yield | NC1=NC(=CC(=N1)NC1=CC=C(C(=O)NO)C=C1)C1=C(C=CC(=C1)Br)OCC | C19H18BrN5O3
